Four maximum STTNG #906 flashers, hot-lamp switch-off, n1_l10u_clamp1
.include /home/lolz0r/repros/wpc_power_driver_cost/variants/jlcpcb/tools/spice/models.lib
Vrail rail 0 30
Rlamps rail lp 18.0
Lwire lp drain 10u
Vcmd cmd 0 PULSE(0 4.5 100u 20n 20n 1m 5m)
Ro cmd a 40
Rg a gate 100
Rpd gate 0 10k
Vs drain dq 0
XQ dq gate 0 IPD90N10S4L06
Dfly drain rail DS1M
.save v(drain) v(gate) i(Vs) i(Lwire)
.options method=gear reltol=.001
.tran 50n 2m 0 100n
.control
run
let absload=abs(i(Lwire))
let pfet=v(drain)*i(Vs)
let sim_end=time[length(time)-1]
print sim_end
meas tran vds_peak MAX v(drain)
meas tran vgs_peak MAX v(gate)
meas tran load_peak MAX absload
meas tran e_turnoff INTEG pfet from=1.099m to=1.2m
.endc
.end
